US07595403B2
The preparation of 6-Chloro-3-oxo-3H-benzo[d]isothiazole-2-carboxylic acid butylamide
Following the synthetic procedure of 6a as described in Example 1, compound 6w (90% yield) was synthesized from 6-chloro-benzo[d]isothiazol-3-one and n-butyl isocyanate as a white solid. IR(CHCl3) 3294, 1713, 1540 cm−1; 1H-NMR (DMSO-d6) δ0.89 (t, J=7.3 Hz, 3H), 1.26-1.37 (m, 2H), 1.47-1.55 (m, 2H), 3.28-3.34 (m, 2H), 7.50 (d, J=8.3 Hz, 1H), 7.91 (d, J=8.3 Hz, 1H), 8.14 (s, 1H), 8.76 (t, J=5.6 Hz, 1H); ESIMS m/e 284 and 286 (M++1, 35Cl and 37Cl).

reactant | 6-chloro-benzo[d]isothiazol-3-one | ClC1=CC2=C(C(NS2)=O)C=C1 | C7H4ClNOS
reactant | n-butyl isocyanate | C(CCC)N=C=O | C5H9NO
product | 6-Chloro-3-oxo-3H-benzo[d]isothiazole-2-carboxylic acid butylamide | C(CCC)NC(=O)N1SC2=C(C1=O)C=CC(=C2)Cl | C12H13ClN2O2S
